US04242510
A solution of 4-nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate hydrochloride (4.06 g.) and trimethylsilylacetamide (9.19 g.) in ethyl acetate (40 ml.) and a solution of 2-(2,3-dihydro-1,4-dithiin-5-yl)-2-methoxyiminoacetic acid (syn isomer, 2.2 g.), N,N-dimethylformamide (0.8 g.) and phosphoryl chloride (1.67 g.) in ethyl acetate (24 ml.) were treated in a similar manner to that of Example 19-(1) to give 4-nitrobenzyl 7-[2-(2,3-dihydro-1,4-dithiin-5-yl)-2-methoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate (syn isomer, 5.1 g.).

reactant | 4-nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate hydrochloride | 4.06 g | Cl.NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O
reactant | trimethylsilylacetamide | 9.19 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 2-(2,3-dihydro-1,4-dithiin-5-yl)-2-methoxyiminoacetic acid | 2.2 g | S1CCSC(=C1)C(C(=O)O)=NOC | C7H9NO3S2
reactant | phosphoryl chloride | 1.67 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 24 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 0.8 g | CN(C=O)C | C3H7NO
product | 4-nitrobenzyl 7-[2-(2,3-dihydro-1,4-dithiin-5-yl)-2-methoxyiminoacetamido]-3-chloro-3-cephem-4-carboxylate | 5.1 g | S1CCSC(=C1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C21H19ClN4O7S3
